US07208526B2
2-Phenyl-ethenesulfonic acid 4-chloro-2-fluoro-benzoylamide
To a solution of 2-phenyl-ethenesulfonic acid amide (500 mg, 2.7 mmol) in dioxane (25 ml) sodium hydride (197 mg, 55% dispersion in mineral oil) were added and the mixture was stirred at room temperature for 30 minutes. 4-Chloro-2-fluoro-benzoyl chloride (527 mg, 2.7 mmol) were added and the mixture was stirred at room temperature overnight. After addition of water (50 ml) the pH was adjusted to 7 with 1 N HCl and the mixture was extracted with ethyl acetate (3 times 50 ml). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Preparative HPLC (RP18, methanol-water-gradient) returned the title compound (730 mg, 79% yield) as a white solid.

reactant | 2-phenyl-ethenesulfonic acid amide | 2.7 mmol, 500 mg | C1(=CC=CC=C1)C=CS(=O)(=O)N | C8H9NO2S
reactant | 4-Chloro-2-fluoro-benzoyl chloride | 2.7 mmol, 527 mg | ClC1=CC(=C(C(=O)Cl)C=C1)F | C7H3Cl2FO
reactant | water | 50 ml | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 25 ml, 197 mg | O1CCOCC1 | C4H8O2
product | 2-Phenyl-ethenesulfonic acid 4-chloro-2-fluoro-benzoylamide | 730 mg, 79% yield | ClC1=CC(=C(C(=O)NS(=O)(=O)C=CC2=CC=CC=C2)C=C1)F | C15H11ClFNO3S
